US07402581B2
(g) 6-Cyano-N-[(2S)-2-(4-fluorophenyl)-4-oxobutyl]-N-methylindane-4-carboxamide
The compound was synthesized in an analogous way to that of Method 21b but using 6-cyano-N-[(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]-N-methylindane-4-carboxamide rather than 3,5-dichloro-N-[(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]-N-methylbenzamide (yield, 89%). 1H NMR (300 MHz, CDCl3): 0.9-4.2 (cm, 14H), 5.9 (s, <1H), 6.6-8.2 (cm, 6H), 8.0 (s, <1H), 9.8 (s, 1H).

reactant | 6-cyano-N-[(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]-N-methylindane-4-carboxamide | C(#N)C=1C=C(C=2CCCC2C1)C(=O)N(C)C[C@@H](CC=C)C1=CC=C(C=C1)F | C23H23FN2O
reactant | 3,5-dichloro-N-[(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]-N-methylbenzamide | ClC=1C=C(C(=O)N(C)C[C@@H](CC=C)C2=CC=C(C=C2)F)C=C(C1)Cl | C19H18Cl2FNO
product | 6-Cyano-N-[(2S)-2-(4-fluorophenyl)-4-oxobutyl]-N-methylindane-4-carboxamide | C(#N)C=1C=C(C=2CCCC2C1)C(=O)N(C)C[C@@H](CC=O)C1=CC=C(C=C1)F | C22H21FN2O2
